US07473705B2
To 44 mg (0.07 mmol) of rac 4-(2-phenyl-2-{4-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-ethoxy)-benzaldehyde in 2 mL of dichloroethane 33 mg (0.15 mmol) of DDQ and a drop of water were added. The reaction mixture was stirred at 70° C. overnight, cooled to room temperature and was diluted with dichloromethane and EtOAc, dried (Na2SO4), filtered and evaporated. Column chromatography on silica gel with EtOAc/n-heptane 1:5 gave 22 mg (62%) of rac 4-{2-phenyl-2-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenoxy]-ethoxy}-benzaldehyde, MS: 483 (M−H)−.

reactant | rac 4-(2-phenyl-2-{4-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-ethoxy)-benzaldehyde | 0.07 mmol, 44 mg | C1(=CC=CC=C1)C(COC1=CC=C(C=O)C=C1)OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)OCC1=CC=C(C=C1)OC | C32H26F6O5
reactant | dichloroethane | 0.15 mmol, 2 mL, 33 mg | ClC(C)Cl | C2H4Cl2
reactant | DDQ | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | rac 4-{2-phenyl-2-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenoxy]-ethoxy}-benzaldehyde | 22 mg, 62% | C1(=CC=CC=C1)C(COC1=CC=C(C=O)C=C1)OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C24H18F6O4
